US07244730B2
(Step 1) 6-Bromonicotinic acid
After dissolving 2-bromo-5-picoline (100 g, 0.291 mol) in 1000 ml of water, Aliquat336 (2 ml) was added, and then potassium permanganate (251 g, 0.797 mol) was gradually added over a period of 1 hour and 30 minutes while stirring at 110° C. This mixture was further stirred for an hour, the reaction mixture was filtered through celite without cooling and washed with water, and the filtrate was concentrated to approximately half volume under reduced pressure. After adding 48% hydrobromic acid (˜300 ml), the precipitated crystals were filtered, washed with water and dried to yield the title compound (white crystals 52 g, 44%).

reactant | 2-bromo-5-picoline | 0.291 mol, 100 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | potassium permanganate | 0.797 mol, 251 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 1000 ml | O | H2O
solvent | Aliquat336 | 2 ml | CCCCCCCC(=O)C(C(=O)CCCCCCC)(C(=O)CCCCCCC)[NH3+].[Cl-]
product | 6-Bromonicotinic acid | 52 g, 44% | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
